US04367229
2.08 g. of ethyl 4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate are dissolved in 5 ml. of acetone and to the solution 2.5 ml. of methyl iodide are added. After 24 hours the precipitated crystals are filtered and washed with acetone. 2.61 g. (74%) of 3-ethoxycarbonyl-1-methyl-4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidinium iodide are obtained melting under decomposition at 212° C.

reactant | ethyl 4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate | O=C1C(=CN=C2N1CCC2)C(=O)OCC | C10H12N2O3
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 3-ethoxycarbonyl-1-methyl-4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidinium iodide | 74% | [I-].C(C)OC(=O)C1=C[N+](=C2N(C1=O)CCC2)C | InChI=1S/C11H15N2O3.HI/c1-3-16-11(15)8-7-12(2)9-5-4-6-13(9)10(8)14;/h7H,3-6H2,1-2H3;1H/q+1;/p-1
